US08497368B2
2-(5,7-Difluoro-quinolin-6-yl)-propionic acid methyl ester (49.1)
To a solution of LDA (1.2 M in THF, 9.5 mL, 11.40 mmol) in dry THF (30 mL) at −78° C. was added dropwise a solution of (5,7-difluoroquinolin-6-yl)-acetic acid methyl ester (2.12 g, 9.50 mmol) in THF (20 mL). After 30 min, MeI (0.9 mL, 14.25 mmol) was added dropwise, and the reaction mixture was allowed to rise to 0° C. slowly. After 1 h, the reaction was quenched by satd. aq. NaHCO3 solution, and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, concentrated, and purified by flash chromatography to afford 2.272 g of the title compound as pale yellow solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.93 (d, 1H), 8.39 (dd, 1H), 7.61 (dd, 1H), 7.41-7.46 (m, 1H), 4.29 (q, 1H), 3.73 (s, 3H), 1.62 (d, 3H). LCMS (method A): [MH]+=252, tR=5.09 min.

reactant | LDA | 11.40 mmol, 1.2 M, 9.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | (5,7-difluoroquinolin-6-yl)-acetic acid methyl ester | 9.50 mmol, 2.12 g | COC(CC=1C(=C2C=CC=NC2=CC1F)F)=O | C12H9F2NO2
reactant | MeI | 14.25 mmol, 0.9 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(5,7-Difluoro-quinolin-6-yl)-propionic acid methyl ester | 2.272 g | COC(C(C)C=1C(=C2C=CC=NC2=CC1F)F)=O | C13H11F2NO2
